US05733913
To a solution of 0.23 g 60% sodium hydride suspension in 11.0 mL of 2-ethoxyethanol was added 4.18 g of 2,6-dibromophenylacetonitrile and 2.00 g of 2,4-diaminopyrimidine-5-carboxaldehyde. The reaction was refluxed for 4 hours, cooled, and poured into ice water. The residue was washed well with acetonitrile then diethyl ether to give 3.62 g of 6-(2,6-dibromo-phenyl)-pyrido[2,3-d]pyrimidine-2,7-diamine, CIMS (1% NH3 in CH4): 422=M+ +C2H5, 396 (Base), 394=M+ +H, 393=M+ ; mp 284°-289° C.

reactant | sodium hydride | 0.23 g | [H-].[Na+]
reactant | 2,6-dibromophenylacetonitrile | 4.18 g | BrC1=C(C(=CC=C1)Br)CC#N | C8H5Br2N
reactant | 2,4-diaminopyrimidine-5-carboxaldehyde | 2.00 g | NC1=NC=C(C(=N1)N)C=O | C5H6N4O
solvent | 2-ethoxyethanol | 11.0 mL | C(C)OCCO | C4H10O2
product | 6-(2,6-dibromo-phenyl)-pyrido[2,3-d]pyrimidine-2,7-diamine | 3.62 g | BrC1=C(C(=CC=C1)Br)C1=CC2=C(N=C(N=C2)N)N=C1N | C13H9Br2N5
